US05831004
A. 2,2-Diphenyl-5-hydroxymethyl-1,3-oxathiolane (1)
3-Mercapto-1,2-propanediol(3.26 g, 30.00 mmol) was dissolved in benzene (60 mL). Benzophenone dimethyl ketal (13.48 g, 60.0 mmol, 2 equiv.) and CSA (0.70 mg, 3.00 mmol, 0.1 equiv.) were added. The solution was heated with an oil bath to reflux. Benzene/methanol was collected and removed while more benzene was added to the refluxing reaction. After about 200 mL benzene/methanol was distilled out, the reaction was cooled to room temperature, applied directly onto a silica gel column. The column was then eluted was 20%-40% ether/petroleum ether to afford a thick oil as the desired product (3.78 g, 46). Rf =0.25, 20% ether/petroleum ether. 1H NMR (400 MHz, C6D6) δ=2.56 (dd, J=6.3, 10.2 Hz, 1H), 2.83 (dd, J=7.7, 10.2 Hz, 1H), 3.35 (br dd, J=5.3, 11.6 Hz, 1H), 3.44 (br dd, J=3.5, 11.6 Hz, 1H), 3.88-3.95 (m, 1H), 6.94-7.20 (m, 6H), 7.54 (d, J=7.5 Hz, 2H), 7.70 (d, J=7.5 Hz, 2H). 13C NMR (100 MHz, C6D6) δ=35.90, 63.97, 83.29, 100.20, 126-129 (m).

reactant | 3-Mercapto-1,2-propanediol | 30.00 mmol, 3.26 g | SCC(CO)O | C3H8O2S
reactant | Benzophenone dimethyl ketal | 60.0 mmol, 13.48 g, 2 equiv. | COC(C1=CC=CC=C1)(C1=CC=CC=C1)OC | C15H16O2
reactant | CSA | 3.00 mmol, 0.70 mg, 0.1 equiv. | CC1(C2CCC1(C(=O)C2)CS(=O)(=O)O)C | C10H16O4S
solvent | benzene | 60 mL | C1=CC=CC=C1 | C6H6
product | 2,2-Diphenyl-5-hydroxymethyl-1,3-oxathiolane | 3.78 g | C1(=CC=CC=C1)C1(OC(CS1)CO)C1=CC=CC=C1 | C16H16O2S
